2138-05-27 06:59:00 Physician Resident Progress Note
Chief Complaint: mental status changes & sepsis
   24 Hour Events:
 MULTI LUMEN - START [**2138-5-26**] 06:00 PM - central line placed
 PICC LINE - STOP [**2138-5-26**] 08:00 PM - concern as site of infecition
 BLOOD CULTURED - At [**2138-5-27**] 04:32 AM - grownig GP cocci
 FEVER - 103.4
F - [**2138-5-26**] 02:00 PM
   - Patient was intubated yesterday afternoon, she became tachypneic
   during her central line placement.  She was not particularly hypoxic or
   hypercarbic at the time.  She was intubated to help with work of
   breathing and to protect her airway.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2138-5-27**] 05:38 AM
   Infusions:
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2138-5-26**] 12:52 PM
   Pantoprazole (Protonix) - [**2138-5-26**] 09:07 PM
   Midazolam (Versed) - [**2138-5-27**] 03:45 AM
   Fentanyl - [**2138-5-27**] 03:45 AM
   Heparin Sodium (Prophylaxis) - [**2138-5-27**] 05:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-5-27**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.7
C (103.4
   Tcurrent: 37.8
C (100
   HR: 66 (61 - 134) bpm
   BP: 128/61(83) {128/48(69) - 165/87(101)} mmHg
   RR: 18 (15 - 44) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 16 (3 - 17)mmHg
   Total In:
                                                                  5,674 mL
                                                                  1,014 mL
   PO:
   TF:
   IVF:
                                                                  2,564 mL
                                                                    884 mL
   Blood products:
   Total out:
                                                                  3,420 mL
                                                                    425 mL
   Urine:
                                                                  1,420 mL
                                                                    275 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  2,254 mL
                                                                    589 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   PS : 5 cmH2O
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 19 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.39/41/164/22/0
   Ve: 7.8 L/min
   PaO2 / FiO2: 410
   Physical Examination
   Gen: intubated, sedated, will react to noxious stimuli.
   neck: R IJ in place without erythema.
   Lungs: CTA anteriorly
   CV:  RRR, S1 & S2 nl, no m/r/g
   Abd: + BS, non-distended, likely non-tender but patient is unresponsive
   Ext:  cool hands and feet, cap refill <3 sec.
   Labs / Radiology
   514 K/uL
   9.1 g/dL
   124 mg/dL
   1.6 mg/dL
   22 mEq/L
   3.2 mEq/L
   9 mg/dL
   104 mEq/L
   138 mEq/L
   26.9 %
   13.1 K/uL
        [image002.jpg]
                             [**2138-5-26**]  12:35 PM
                             [**2138-5-26**]  08:50 PM
                             [**2138-5-26**]  10:11 PM
                             [**2138-5-27**]  04:08 AM
   WBC
   13.5
   13.1
   Hct
   28.8
   26.9
   Plt
   582
   514
   Cr
   1.7
   1.6
   TropT
   0.03
   0.03
   TCO2
   26
   Glucose
   179
   124
   Other labs: PT / PTT / INR:15.7/29.6/1.4,
   CK / CKMB / Troponin-T:191/3/0.03,
   ALT / AST:[**11-9**], Alk Phos / T Bili:122/0.5, Amylase / Lipase:20/12,
   Differential-Neuts:80.4 %, Lymph:12.3 %, Mono:6.7 %, Eos:0.2 %,
   Lactic Acid:1.4 mmol/L, Albumin:3.4 g/dL, LDH:385 IU/L,
    Ca++:7.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   TSH 2.2
   Imaging: CXR
 [**2133-5-25**] prelim
   ETT and NGT in satisfactory position. Right PICC in mid-SVC. R IJ
   terminates
   near brachiocephalic confluence. Low lung volumes with left basilar
   atelectasis. Difficult to exclude developing consolidation at left lung
   base.
   KUB [**2138-5-26**] prelim
   Unable to asses for air-fluid levels on supine view, but no dilated
   loop of
   small bowel or unusual gas/fluid collection. NGT in pylorus. -[**Doctor Last Name 898**]
   KUB pending today
   Microbiology: blood cx
 GPC in pairs and clusters; others pending
   CSF
 gram stain neg,  viral cx pending, cx pending
   PICC line cx pending
   Assessment and Plan
   Mrs. [**Known lastname 896**] is a 63 yo F with recent admission for ETOH pancreatitis
   admitted with acute altered mental status and fever.
   .
   #sepsis-  Patient found to have gram positive cocci in blood.  The most
   likely source of infection seems to be the PICC line that was d/c
   yesterday.  PICC tip being cultured.  Other sources could be C.diff
   given that she has had persistant diarrhea and recent
   antibiotics/hospitalization.  Pancreatic abscess/pseudocyst also
   possible given recent severe pancreatitis.
   -cover with broad spectrum antibiotics with vancomycin, levofloxacin
   and flagyl for now to cover most likely sources being PICC, C.diff or
   GI tract.  Will likely d/c levo and flagyl after obtaining abdominal
   ultrasound.
   -f/u blood, urine, sputum cultures, CSF cultures
   -check LFT's/amylase/lipase
   -check ABD ultrasound to evaluate prelim for pancreatic abscess
   -tylenol prn for fevers, cooling blankets
   .
   # respiratory failure
 intubated for tachypnea and concern re:
   respiratory fatigue.  Will lighten sedation and hope to extubate later
   today.  RISB 35 and patient is doing well on PSV 5/5
   .
   #Altered Mental Status -most likely SIRS given high spiking fevers.  LP
   in ED without evidence of bacterial or HSV meningitis.  Encephalitis or
   aseptic meningitis possible.  Other possibility is non-convulsive
   status epilepticus.  She had head CT that was unremarkable on admission
   with no focal or localizing signs on neuro exam.  Tox screen negative
   except for benzos given in the ED.
   -Neurology consult
   -likely EEG
   -avoid sedating medications if possible
   -treat infection as above
   .
   #recent ETOH pancreatitis - no evidence of recurrance given normal
   amylase/lipase, pancreatic psudocyst is a possibility.
   -abdominal u/s in the am to evaluate for cyst in pancreas
   -consider Abd CT to further evaluate if indicated
   .
   #h/o ETOH abuse - no recent ETOH x 1 month
   -hold off on benzo's for now
   .
   #Depression - on seroquel and effexor as an outpatient, neither are new
   medications for her.
   -hold seroquel and effexor for now
   -check CK to evaluate for possible NMS
   .
   #FEN - d/c maintenance fluids, replete lytes prn, NPO
 continue for
   now.  Start TF later today if not extubated.
   .
   #Code status: Full
   .
   # Access: central line & 1 PIV
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2138-5-26**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-05-28 06:52:00 Physician Resident Progress Note
Chief Complaint: Septic shock
   24 Hour Events: EEG revealed non-convulsive status epilepticus; loaded
   with keppra 1000 mg, f/b 500 mg [**Hospital1 7**]; video EEG today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-5-27**] 08:05 AM
   Metronidazole - [**2138-5-28**] 05:43 AM
   Infusions:
   Other ICU medications:
   Meperidine (Demerol) - [**2138-5-27**] 02:40 PM
   Pantoprazole (Protonix) - [**2138-5-27**] 07:57 PM
   Midazolam (Versed) - [**2138-5-28**] 04:11 AM
   Fentanyl - [**2138-5-28**] 04:11 AM
   Heparin Sodium (Prophylaxis) - [**2138-5-28**] 05:43 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: intubated, denies pain/discomfort
   Flowsheet Data as of  [**2138-5-28**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.6
C (99.7
   HR: 85 (60 - 109) bpm
   BP: 116/65(77) {104/43(66) - 148/88(95)} mmHg
   RR: 24 (13 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 14 (14 - 25)mmHg
   Total In:
                                                                  2,580 mL
                                                                    636 mL
   PO:
   TF:
                                                                    106 mL
                                                                    227 mL
   IVF:
                                                                  2,054 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                  1,367 mL
                                                                    450 mL
   Urine:
                                                                  1,217 mL
                                                                    450 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  1,213 mL
                                                                    186 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 421 (380 - 500) mL
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 58
   SpO2: 100%
   ABG: ///23/
   Ve: 10.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   303 K/uL
   7.6 g/dL
   117 mg/dL
   1.4 mg/dL
   23 mEq/L
   3.2 mEq/L
   10 mg/dL
   105 mEq/L
   137 mEq/L
   22.4 %
   9.4 K/uL
        [image002.jpg]
                             [**2138-5-26**]  12:35 PM
                             [**2138-5-26**]  08:50 PM
                             [**2138-5-26**]  10:11 PM
                             [**2138-5-27**]  04:08 AM
                             [**2138-5-28**]  04:58 AM
   WBC
   13.5
   13.1
   9.4
   Hct
   28.8
   26.9
   22.4
   Plt
   582
   514
   303
   Cr
   1.7
   1.6
   1.4
   TropT
   0.03
   0.03
   0.02
   TCO2
   26
   Glucose
   179
   124
   117
   Other labs: PT / PTT / INR:15.7/29.6/1.4, CK / CKMB /
   Troponin-T:191/3/0.02, ALT / AST:[**11-9**], Alk Phos / T Bili:122/0.5,
   Amylase / Lipase:20/12, Differential-Neuts:80.4 %, Lymph:12.3 %,
   Mono:6.7 %, Eos:0.2 %, Lactic Acid:1.4 mmol/L, Albumin:3.4 g/dL,
   LDH:385 IU/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   CXR - Decreased opacity at the right base. Improving small left-sided
   pleural
   effusion.
   ABD U/S
 No evidence of pancreatic pseudocyst or intraabdominal
   pathology.
   Assessment and Plan
   63 y/o F h/o hemochromatosis, ETOH abuse a/w GPC septic shock, newly
   diagnosed non-convulsive status epilepticus.
   .
   #Septic shock-  Coag neg staph in blood, likely from PICC d/c
d after
   admission (but tip hasn
t grown to date). WBC count down but remains
   febrile on ABX; also c/f PNA vs. seeding at distant site vs. inadequate
   ABX cov
   -cont. vanco (day [**1-31**]) ; consider +linezolid for VRE if doesn
   improve clinically
   -inclined to leave cipro (day 3) as clinically not improved and has RLL
   opacity and substantial secretions, cannot r/o intraabdominal source by
   U/S alone;
   -TTE to eval for endocarditis
   -consider MRI brain to eval for infectious focus
   -surveillance Cx
   -tylenol (<2 g/d), cooling blanket PRN fever
   -would avoid demerol for rigors as may be epileptogenic
   -f/u Cx data, spec/sensitivities
   .
   #Resp failure
 [**12-21**] intubated for tachypnea and concern re: respiratory
   fatigue.  Will lighten sedation and hope to extubate later today.  RISB
   35 and patient is doing well on PSV 5/5
   .
   #Fever
 likely [**12-21**] bacteremia, other considerations include
   -
   - IV flagyl on board for c. diff will cover anaerobic organisms
   #Altered Mental Status -most likely SIRS given high spiking fevers.  LP
   in ED without evidence of bacterial or HSV meningitis.  Encephalitis or
   aseptic meningitis possible.  Other possibility is non-convulsive
   status epilepticus.  She had head CT that was unremarkable on admission
   with no focal or localizing signs on neuro exam.  Tox screen negative
   except for benzos given in the ED.
   -Neurology consult
   -likely EEG
   -avoid sedating medications if possible
   -treat infection as above
   .
   #recent ETOH pancreatitis - no evidence of recurrance given normal
   amylase/lipase, pancreatic psudocyst is a possibility.
   -abdominal u/s in the am to evaluate for cyst in pancreas
   -consider Abd CT to further evaluate if indicated
   .
   #h/o ETOH abuse - no recent ETOH x 1 month
   -hold off on benzo's for now
   .
   #Depression - on seroquel and effexor as an outpatient, neither are new
   medications for her.
   -hold seroquel and effexor for now
   -check CK to evaluate for possible NMS
   .
   #FEN - d/c maintenance fluids, replete lytes prn, NPO
 continue for
   now.  Start TF later today if not extubated.
   .
   #Code status: Full
   .
   # Access: central line & 1 PIV
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2138-5-28**] 04:04 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2138-5-26**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-05-29 06:28:00 Physician Resident Progress Note
Chief Complaint: sepsis
   63 y/o F h/o hemochromatosis, ETOH abuse a/w GPC septic shock, newly
   diagnosed non-convulsive status epilepticus.
   24 Hour Events:
 FEVER - 103.6
F - [**2138-5-28**] 12:00 PM
   Blood cx came back Coag neg Staph thought to be likely contaminant.
   The PICC line is not growing anything.
   Began looking for another source.
   CT C/A/P -- Lg pancreatic fluid collection compared to previous on
   [**2138-5-2**].  D/C TF overnight.  She had surgery and IR see her overnight.
   Neither wanted to do any procedure emergently on her.  Will re-evaluate
   this am for best way to drain the collection.
   Video EEG
 continuing per neuro.
   LE Doppler
 neg.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-5-28**] 08:00 AM
   Levofloxacin - [**2138-5-28**] 04:15 PM
   Metronidazole - [**2138-5-28**] 10:30 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-5-28**] 08:00 PM
   Midazolam (Versed) - [**2138-5-28**] 08:30 PM
   Fentanyl - [**2138-5-28**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2138-5-28**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-5-29**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.6
   Tcurrent: 38.2
C (100.7
   HR: 89 (61 - 91) bpm
   BP: 127/65(81) {88/45(63) - 151/79(89)} mmHg
   RR: 23 (17 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 12 (12 - 18)mmHg
   Total In:
                                                                  3,742 mL
                                                                    226 mL
   PO:
   TF:
                                                                    431 mL
   IVF:
                                                                  2,381 mL
                                                                    196 mL
   Blood products:
   Total out:
                                                                  2,390 mL
                                                                    580 mL
   Urine:
                                                                  1,890 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,352 mL
                                                                   -354 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 360 (360 - 490) mL
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 100%
   ABG: ///21/
   Ve: 8.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   281 K/uL
   7.9 g/dL
   101 mg/dL
   1.2 mg/dL
   21 mEq/L
   3.5 mEq/L
   11 mg/dL
   108 mEq/L
   139 mEq/L
   23.0 %
   8.3 K/uL
        [image002.jpg]
                             [**2138-5-26**]  12:35 PM
                             [**2138-5-26**]  08:50 PM
                             [**2138-5-26**]  10:11 PM
                             [**2138-5-27**]  04:08 AM
                             [**2138-5-28**]  04:58 AM
                             [**2138-5-28**]  11:40 AM
                             [**2138-5-29**]  04:05 AM
   WBC
   13.5
   13.1
   9.4
   9.5
   8.3
   Hct
   28.8
   26.9
   22.4
   23.3
   23.0
   Plt
   582
   514
   303
   329
   281
   Cr
   1.7
   1.6
   1.4
   1.2
   TropT
   0.03
   0.03
   0.02
   TCO2
   26
   Glucose
   179
   124
   117
   101
   Other labs: PT / PTT / INR:15.7/33.6/1.3,
    CK / CKMB / Troponin-T:191/3/0.02,
   ALT / AST:[**11-9**], Alk Phos / T Bili:122/0.5,
   Amylase / Lipase:20/12,
   Differential-Neuts:80.8 %, Lymph:11.9 %, Mono:5.3 %, Eos:1.6 %,
    Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:385 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Vanco 22.1 (therapeutic [**9-8**])
   Imaging:
   CT C/A/P [**2138-5-28**]:
   Prelim read-  Interval development of pancreatic body necrosis. Large
   pseudocyst
   without evidence of pseudoaneurysm formation.
   Focal right upper lobe opacities may represent patchy areas of
   pneumonia.
   Interval improvement in the bilateral pleural effusions with residual
   adjacent
   atelectasis.
   ECHO REPORT [**2138-5-28**]
   The left atrium and right atrium are normal in cavity size. Left
   ventricular wall thickness, cavity size, and global systolic function
   are normal (LVEF>55%). Due to suboptimal technical quality, a focal
   wall motion abnormality cannot be fully excluded. Right ventricular
   chamber size and free wall motion are normal. The aortic valve leaflets
   (3) appear structurally normal with good leaflet excursion. Trace
   aortic regurgitation may be present (clip [**Clip Number (Radiology) **]). The mitral valve appears
   structurally normal with trivial mitral regurgitation. There is no
   mitral valve prolapse. The pulmonary artery systolic pressure could not
   be determined. There is no pericardial effusion.
   Compared with the prior study (images reviewed) of [**2138-5-19**], the
   findings are similar.
   CLINICAL IMPLICATIONS:
   Based on [**2136**] AHA endocarditis prophylaxis recommendations, the echo
   findings indicate prophylaxis is NOT recommended. Clinical decisions
   regarding the need for prophylaxis should be based on clinical and
   echocardiographic data.
   If clinically suggested, the absence of a vegetation by 2D
   echocardiography does not exclude endocarditis.
   Microbiology: blood cx x1 - coag neg Staph
   blood cx x6 - ngtd
   C-diff - neg
   o&p -neg
   PICC - NGTD
   Assessment and Plan
   63 y/o F h/o hemochromatosis, ETOH abuse a/w septic shock, newly
   diagnosed non-convulsive status epilepticus who is improving
   clinically, recently found to pancreatic pseudocyst on CT as possible
   source of infection.
   .
   #Septic shock-  Mental status and renal function improved. The coag neg
   staph in blood thought to be likely contaminant as only growing in [**11-24**]
   bottles.  The PICC line cx has had NGTD.  The patient
s WBC count
   continues to trend down but remains febrile on ABX.  Infected/necrotic
   pseudocyst is possible explanation for continued fevers on ABX.
   Patient also has bilat pulmonary effusion which seen on CT.  A
   pneumonia/empyema is also possible source.
   -cont. vanco (day [**1-31**]) ;
   -cont. levofloxacin to cover possible PNA
   -continue flagyl to cover for possible anaerobic infection in
   pseudocyst.
   -Consult Surgery, IR and GI to evaluate drainage of pseudocyst
 recs
   appreciated.
   -consider MRI brain to eval for infectious focus
   -surveillance Cx & repeat sputum Cx
   -tylenol (<2 g/d), cooling blanket PRN fever
   -would avoid demerol for rigors as may be epileptogenic
   -f/u Cx data, spec/sensitivities
   -continue on precautions for hx of VRE + swabs.
   .
   #Resp failure
 Holding off on extubation this morning for possible
   conscious sedation/surgery later today.  Patient has large pleural
   effusions and area of possible consolidation.  Consider thoracentesis
   if pseudocyst aspiration is non-diagnositic.
   -Cont. PSV 5/5
   -fentanyl, versed boluses PRN for sedation
   .
   #Fever
likely secondary to infected pseudocyst.  other considerations
   include PNA, cerebral pathology, vasculitis, CTD, drug fever, NMS;
   non-focal physical exam, LP & U/A negative on admission, CK WNL
   -cont. broad spectrum ABX
   -repeat Cx, f/u spec/[**Last Name (un) 270**]
   .
   #NCSE
   -MRI of brain to further eval epilepsy and to further investigate
   infectious etiology.
   -video EEG today to help titrate antiepileptic therapy
   -cont. keppra
   -f/u neuro recs
   .
   #ARF
 likely pre-renal azotemia in the setting of shock; Cr improving
   with IVF
   -renally dose vanco
 hold today
s vanco dose.
   -cont. volume repletion in the setting of fever, incr. insensible
   losses, and prior to dye load
   .
   #Anemia
 Hct 22-23% from 28% on admission; no s/sx bleeding
   -follow Hct
   -guaiac stools
   -type & cross
 sent last night; x-fuse for < 21%
   .
   #Diarrhea
 may be secondary to pancreatic insufficiency
 written for
   panc. Enzymes once resuming PO intake.
   - cont. to have frequent BM
s; neg Cdiff toxin to date by our records
   -cont. treat empirically with IV flagyl
   -repeat toxin assay
   .
   #F/E/N
   -NS @ 100 cc/hr in light of insensible losses and anticipated contrast
   load
   -holding TF
 for possible CT guided drainage today.
   -replete lytes PRN.
   .
   #PPx
 SQH, PPI
   .
   # Access: R IJ, needs better PIV access for IV contrast
   .
   #Code status: Full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2138-5-26**] 06:00 PM
   22 Gauge - [**2138-5-28**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I neglected to enter the Physical exam into the note in error:
   PE:
   Gen: patient is alert, follows commands, she nods yes/no to questions
   Lungs: vent breath sounds anteriorly
   CV: RRR, S1 & S2 nl, No m/r/g
   Abd: hypoactive bowel sounds, soft, TTP in lower quadrants bilat.
   Scattered ecchymosis from lovenox injections.
   Ext: warm, dry.
   ------ Protected Section Addendum Entered By:[**Name (NI) 837**] [**Last Name (NamePattern1) 840**], MD
   on:[**2138-5-29**] 10:51 ------

2138-05-30 06:49:00 Physician Resident Progress Note
Chief Complaint: pancreatic pseudocyst
   63 y/o F h/o hemochromatosis, ETOH abuse a/w septic shock, newly
   diagnosed non-convulsive status epilepticus who is improving
   clinically, recently found to pancreatic pseudocyst on CT as possible
   source of infection.
   24 Hour Events:
   -- INVASIVE VENTILATION - STOP [**2138-5-29**] 03:05 PM.  Patient was
   extubaded and has done well clinically off the vent.
   --She had CT guided aspiration of her pancreatic pseudocyst.  The fluid
   gram stain was negative and cultures are pending.
   --Per nursing, pt is having difficulty with word finding and is
   somewhat frustrated by this.
   --Neuro things that it is r/t a toxic metabolic encephalopathy from her
   acute illness, and that it is more difficulty with attention span and
   executive fns than word finding. Plan to stop EEG today and get an MRI.
   --Patient was hypertensive to systolic of 160s, started amlodipine at 5
   mg PO (home dose 7.5mg daily).
   Subjective: Patient reports feeling depressed.  She reports some nausea
   and abdominal pain.  Denies other pain, fevers, chills, SOB.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2138-5-28**] 04:15 PM
   Vancomycin - [**2138-5-29**] 04:09 PM
   Metronidazole - [**2138-5-30**] 06:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2138-5-29**] 02:21 PM
   Fentanyl - [**2138-5-29**] 04:15 PM
   Pantoprazole (Protonix) - [**2138-5-29**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2138-5-30**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-5-30**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.2
C (99
   HR: 86 (84 - 121) bpm
   BP: 172/84(101) {143/56(86) - 176/90(111)} mmHg
   RR: 27 (19 - 29) insp/min
   SpO2: 98%  RA
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 7 (6 - 13)mmHg
   Total In:
                                                                  3,030 mL
                                                                    337 mL
   PO:
                                                                    720 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  2,120 mL
                                                                    217 mL
   Blood products:
   Total out:
                                                                  3,780 mL
                                                                  1,150 mL
   Urine:
                                                                  3,280 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -750 mL
                                                                   -813 mL
   Respiratory support
   None.
   Physical Examination
   Gen: Patient is A&Ox1 (to person), she appears tearful intially, she
   has difficulty focusing on the questions that are asked of her.
   CV: RRR, S1 & S2 nl, no m/r/g
   Lungs: CTA in all lung fields
   Abd: + bs, mildly tender to palpation diffusely
   Ext: warm dry, 2+ radial pulses bilat.
   Neuro: CN 2-12 grossly intact. Difficulty with naming, repitition.
   MAE.
   Labs / Radiology
   301 K/uL
   8.1 g/dL
   166 mg/dL
   1.2 mg/dL
   20 mEq/L
   3.0 mEq/L
   7 mg/dL
   109 mEq/L
   140 mEq/L
   23.7 %
   7.7 K/uL
        [image002.jpg]
                             [**2138-5-26**]  12:35 PM
                             [**2138-5-26**]  08:50 PM
                             [**2138-5-26**]  10:11 PM
                             [**2138-5-27**]  04:08 AM
                             [**2138-5-28**]  04:58 AM
                             [**2138-5-28**]  11:40 AM
                             [**2138-5-29**]  04:05 AM
                             [**2138-5-30**]  03:45 AM
   WBC
   13.5
   13.1
   9.4
   9.5
   8.3
   7.7
   Hct
   28.8
   26.9
   22.4
   23.3
   23.0
   23.7
   Plt
   582
   514
   303
   329
   281
   301
   Cr
   1.7
   1.6
   1.4
   1.2
   1.2
   TropT
   0.03
   0.03
   0.02
   TCO2
   26
   Glucose
   179
   124
   117
   101
   166
   Other labs: PT / PTT / INR:15.7/33.6/1.3,
   CK / CKMB / Troponin-T:191/3/0.02,
   ALT / AST:[**11-9**], Alk Phos / T Bili:122/0.5, Amylase / Lipase:20/12,
   Differential-Neuts:80.8 %, Lymph:11.9 %, Mono:5.3 %, Eos:1.6 %,
   Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:385 IU/L,
    Ca++:8.0 mg/dL, Mg++:1.5 mg/dL, PO4:2.7 mg/dL
   Panc fluid
 Gram stain neg for bacteria and PMNs.
   CXR [**2138-5-30**]
 looks similar to previous.  The L CP angle was not
   included in the film.
   Re-evaluation of previous EEG
 felt to be multiple separate seizure
   foci rather than status epilepticus.
   Assessment and Plan
   63 y/o F h/o hemochromatosis, ETOH abuse a/w septic shock, newly
   diagnosed non-convulsive status epilepticus who is improving
   clinically, recently found to pancreatic pseudocyst on CT as another
   possible source of infection.
   .
   #SIRS/sepsis-  Mental status and renal function improved.  She does not
   seem to have a bacteremia.  The coag neg staph in blood thought to be
   likely contaminant as only growing in [**11-24**] bottles.  The PICC line cx
   has had NGTD.  Infected/necrotic pseudocyst is possible explanation for
   her infection.  The gram stain was negative, but it was sampled after
   several days of ABX.  Patient also has bilat pulmonary effusion which
   seen on CT so an empyema is possible --though improvement was noted
   from previous scan
   -d/c the vanco because the patient does not appear to have a
   bacteremia.
   -cont. levofloxacin and flagyl to cover for possible bowel anaerobic
   infection in pseudocyst. (course 2 weeks)
   -Follow up with GI and [**Doctor First Name **] re: further management of pseudocyst.
   -obtain MRI brain to eval for infectious focus
   -cx if spikes
   -tylenol (<2 g/d), cooling blanket PRN fever
   -would avoid demerol for rigors as may be epileptogenic
   -f/u Cx data, spec/sensitivities
   -continue on precautions for hx of VRE + swabs.
   .
   #Fever
afebrile overnight.  Possibly secondary to infected pseudocyst.
   other considerations include PNA, cerebral pathology.
   -cont. levoquin and flagyl.
   -repeat Cx, f/u spec/[**Last Name (un) 270**]
   .
   #Mental status/NCSE:
   -MRI of brain today (presedate with ativan PRN) to further eval
   epilepsy and to further investigate infectious etiology.
   -f/u with neuro re: video EEG today results
   -cont. keppra
   -f/u neuro recs
   #HTN
 poor control with SBPs remain in the 160-170s
   -change amlodipine to home dose of 7.5 mg PO daily
   -start metoprolol 12.5 mg PO BID
   .
   #ARF
 likely pre-renal azotemia
 resolving
   - renally dose vancomycin.
   #Anemia
 Hct 22-23% from 28% on admission; no s/sx bleeding
   -follow Hct
   -type & cross
 sent 2 days ago; x-fuse for < 21%
   .
   #Diarrhea
 may be secondary to pancreatic insufficiency
 written for
   panc. enzymes once to be given with food.
   - cont. to have frequent BM
s; neg Cdiff toxin to date by our records
   .
   #F/E/N
   -advance diet from clears to regular slowly as tolerated.
   -replete lytes PRN.
   .
   #PPx
 SQH, PPI
   .
   # Access: R IJ, 1 PIV
   - place PICC and d/c central line and
   .
   #Code status: Full
   # DISPO: [**Hospital 910**] transfer to the floor tomorrow.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2138-5-26**] 06:00 PM
   22 Gauge - [**2138-5-28**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Present for key portions of history and exam.  Agree with plan as
   outlined.  With aspirate neg by gram stain we are continuing abx but I
   am doubtful the necrotic area is infected leaving us with no good
   explanation for her fever on presentation. Awaiting MR of head this
   evening.
   Time spent: 40 min
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 56**] [**Last Name (NamePattern1) 37**], MD
   on:[**2138-5-30**] 17:48 ------

2138-05-31 07:01:00 Physician Resident Progress Note
Chief Complaint: infection/SIRS
   63 y/o F h/o hemochromatosis, ETOH abuse a/w septic shock, newly
   diagnosed non-convulsive status epilepticus who is improving
   clinically, recently found to pancreatic pseudocyst on CT after a
   recent pancreatitis.  The pseudocyst is not clearly infected; source
   for infection is unknown.
   24 Hour Events:
 1 episode of tachacardia to 140s -- EKG - At [**2138-5-30**] 02:45 PM
   revealed sinus tach  which resolved spontaneously.
 MAGNETIC RESONANCE IMAGING - At [**2138-5-30**] 10:00 PM  -- Patient was
   given ativan for sedation but still tremulous during MRI.
   -- PIV was placed instead of PICC.  D/c
ed central line
   SUBJECTIVE:  Patient reports feeling well.  She denies abdominal
   pain/nausea.  No diarrhea overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-5-29**] 04:09 PM
   Levofloxacin - [**2138-5-30**] 05:30 PM
   Metronidazole - [**2138-5-31**] 06:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2138-5-30**] 10:50 PM
   Heparin Sodium (Prophylaxis) - [**2138-5-31**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-5-31**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 103 (82 - 133) bpm
   BP: 162/90(109) {101/58(79) - 193/100(117)} mmHg
   RR: 20 (17 - 31) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  1,973 mL
                                                                    527 mL
   PO:
                                                                  1,150 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    823 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                  4,900 mL
                                                                    940 mL
   Urine:
                                                                  4,000 mL
                                                                    940 mL
   NG:
   Stool:
                                                                    900 mL
   Drains:
   Balance:
                                                                 -2,927 mL
                                                                   -414 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   Gen: improving mental status. A&Ox 2 (date and person).  Able to focus
   attention more.
   CV: rapid rate, regular rhythm, s1 & S2 nl, no m/r/g
   Lungs:  CTA in all lung fields
   Abd: +BS, nt, nd, soft
   Ext: warm dry, 2+radial pulses:
   Neuro: CN grossly intact, MAE, patient able to name [**1-20**] objects,
   yesterday [**11-21**].  Able to recall  0/3 items after 3 minutes, but
   yesterday did not even repeat objects initially.  Able to repeat
   ifs, ands or buts
   Labs / Radiology
   323 K/uL
   8.5 g/dL
   125 mg/dL
   1.1 mg/dL
   23 mEq/L
   3.5 mEq/L
   5 mg/dL
   108 mEq/L
   142 mEq/L
   24.2 %
   7.5 K/uL
        [image002.jpg]
                             [**2138-5-26**]  12:35 PM
                             [**2138-5-26**]  08:50 PM
                             [**2138-5-26**]  10:11 PM
                             [**2138-5-27**]  04:08 AM
                             [**2138-5-28**]  04:58 AM
                             [**2138-5-28**]  11:40 AM
                             [**2138-5-29**]  04:05 AM
                             [**2138-5-30**]  03:45 AM
                             [**2138-5-30**]  06:21 PM
                             [**2138-5-31**]  05:39 AM
   WBC
   13.5
   13.1
   9.4
   9.5
   8.3
   7.7
   7.5
   Hct
   28.8
   26.9
   22.4
   23.3
   23.0
   23.7
   24.2
   Plt
   582
   514
   303
   329
   281
   301
   323
   Cr
   1.7
   1.6
   1.4
   1.2
   1.2
   1.1
   1.1
   TropT
   0.03
   0.03
   0.02
   TCO2
   26
   Glucose
   179
   124
   117
   101
   166
   167
   125
   Other labs: PT / PTT / INR:15.7/33.6/1.3,
    CK / CKMB / Troponin-T:191/3/0.02,
   ALT / AST:[**11-9**], Alk Phos / T Bili:122/0.5, Amylase / Lipase:20/12,
   Differential-Neuts:80.8 %, Lymph:11.9 %, Mono:5.3 %, Eos:1.6 %,
   Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:385 IU/L,
    Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Imaging: MRI ([**2138-5-31**])-
   FINDINGS: BRAIN MRI:
   Since the previous MRI examination of [**2138-1-20**], new multiple confluent
   areas of
   T2 hyperintensity are seen in the subcortical white matter of both
   frontal,
   parietal and occipital lobes as well as involvement of the temporal
   lobes.
   Again seen are changes of small vessel disease identified on the
   previous MRI
   examination. Mild-to-moderate brain atrophy is identified. Following
   gadolinium no abnormal enhancement is seen. There is no hydrocephalus
   or
   midline shift.
   IMPRESSION:
   1. Findings are indicative of a posterior reversible encephalopathy
   with
   diffuse changes in all cerebral lobes as described above. These
   findings are
   superimposed on previously noted small vessel disease.
   2. Mild-to-moderate brain atrophy.
   3. No evidence of abnormal enhancement to suggest mass or underlying
   abscess.
   No abnormal meningeal enhancement.
   MRA OF THE HEAD:
   Head MRA demonstrates normal flow signal within the arteries of
   anterior and
   posterior circulation. A slight protuberance at the origin of right
   posterior
   cerebral artery from the basilar artery appears to be due to an
   infundibulum.
   IMPRESSION: No significant abnormalities on MRA of the head.
   Microbiology: Blood cx - Coag neg staph in [**11-25**] cx.
   Panc - gm stain neg, no bacterial growth to date. KOH - no fungus seen.
   CSF - neg virus & bacteria
   C-diff neg.  O&P neg
   PICC neg.
   Assessment and Plan
   63 y/o F h/o hemochromatosis, ETOH abuse a/w septic shock, newly
   diagnosed non-convulsive status epilepticus who is improving
   clinically, recently found to pancreatic pseudocyst on CT as another
   possible source of infection.
   #SIRS/sepsis-  Mental status and renal function improved.  She does not
   seem to have a bacteremia.  The coag neg staph in blood thought to be
   likely contaminant as only growing in [**11-24**] bottles.  The PICC line cx
   has had NGTD.  Infected/necrotic pseudocyst is possible explanation for
   her infection.  The gram stain and cultures are negative, but it was
   sampled after several days of ABX.  Overall, we do not have a definite
   cause of her SIRS.
   -cont. levofloxacin and flagyl to cover for possible bowel anaerobic
   infection in pseudocyst. (course 2 weeks)
   -Follow up with GI and [**Doctor First Name **] re: further management of pseudocyst.
   Surgery states CT A/P in approx 1 month post discharge and either
   follow up as outpatient with GI or [**Doctor First Name **].
   -MRI shows no infectious focus.
   -cx if spikes
   -tylenol (<2 g/d), cooling blanket PRN fever
   -would avoid demerol for rigors as may be epileptogenic
   -f/u Cx data, spec/sensitivities
   -continue on precautions for hx of VRE + swabs.
   #Fever
afebrile x2 days.  Possibly secondary to infected pseudocyst.
   other considerations include PNA, cerebral pathology.
   -cont. levoquin and flagyl.
   -repeat Cx, f/u spec/[**Last Name (un) 270**]
   #Mental status/NCSE:
   -MRI of brain today
shows changes consistent with toxic/metabolic
   encephalopathy.
   -f/u with neuro re: video EEG today results
   -cont. keppra
   -f/u neuro recs
   #HTN
 poor control with SBPs remain in the 160-170s
   -change amlodipine to home dose of 7.5 mg PO daily
   -increase metoprolol 25 mg PO BID
   #ARF
 likely pre-renal azotemia
 resolving Cr. 1.2
   - renally dose vancomycin and levofloxacin.  If Cr drops further may
   need to adjust doses.
   #Anemia
 Hct 22-23% from 28% on admission; no s/sx bleeding
   -follow Hct
   -type & cross
 sent 2 days ago; x-fuse for < 21%
   #Diarrhea
 may be secondary to pancreatic insufficiency
panc. enzymes
   given with food.
   - patient
s diarrhea is resolving.
   #F/E/N
   -advance diet from clears to regular slowly as tolerated.  Giving Panc.
   Enzymes with food.
   -replete lytes PRN.  Give KCl 60 po now.
   #PPx
 SQH, PPI
   # Access: 2 PIV
   .
   #Code status: Full
   # DISPO: transfer to floor today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2138-5-26**] 06:00 PM
   22 Gauge - [**2138-5-28**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: